US04200641
A mixture of 100 parts of 1-chloro-2-nitro-4-(trifluoromethyl)benzene, 90 parts of 3-amino-1-propanol and 200 parts of butanol is stirred and heated till reflux. Stirring at reflux is continued overnight. The reaction mixture is cooled and evaporated. Water is added to the residue and the whole is acidified with a hydrochloric acid solution. The product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The solid residue is crystallized from petroleumether. The product is filtered off and dried, yielding 3-{[2-nitro-4-(trifluoromethyl)phenyl]amino}-1-propanol.

reactant | 1-chloro-2-nitro-4-(trifluoromethyl)benzene | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
solvent | butanol | C(CCC)O | C4H10O
product | 3-{[2-nitro-4-(trifluoromethyl)phenyl]amino}-1-propanol | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NCCCO | C10H11F3N2O3
